US08461372B2
2-[2-(2-Benzyloxy carbonyl methoxy-ethoxy)-acetylamino]-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (5 g) was dissolved in ethyl acetate (200 ml) in a pressure vessel. Palladium on carbon (5%, 50% wet, 2 g) was added and the mixture was stirred under an atmosphere of hydrogen (6 kg) for 9 hours at a temperature of 45-50° C. The catalyst was removed by filtration and distilled off ethyl acetate and the residue was washed with Diisopropyl ether and solvents residue was removed by applying high vacuum to get pure 2-[2-(2-Carboxy methoxy-ethoxy)-acetylamino]-3-(4-hydroxy-phenyl) -propionic acid ethyl ester (2.2 g) as light yellow syrup. The product was characterized by 1H NMR which showed the presence of some impurities and hence was purified by column chromatography.

reactant | 2-[2-(2-Benzyloxy carbonyl methoxy-ethoxy)-acetylamino]-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 5 g | C(C)OC(C(CC1=CC=C(C=C1)O)NC(COCC(C(=O)OCC1=CC=CC=C1)OC)=O)=O | C24H29NO8
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on carbon | 2 g | [Pd] | Pd
product | 2-[2-(2-Carboxy methoxy-ethoxy)-acetylamino]-3-(4-hydroxy-phenyl) -propionic acid ethyl ester | 2.2 g | C(C)OC(C(CC1=CC=C(C=C1)O)NC(COCCOCC(=O)O)=O)=O | C17H23NO8
